
simulator lang=spectre

// This is a generated file.
// Be careful when editing manually: this file may be overwritten.

global 0

include "/home/ff/eecs251b/sky130/sky130_cds/sky130_release_0.0.1/models/sky130.lib.spice" section=tt

simulator lang=spice 

.include 'DigitalLDOLogiclvsv2.sp'
.INCLUDE "/home/aa/users/cs199-apt/Downloads/sky130_fd_sc_hd.spice"
.include "/home/ff/eecs251b/sky130/sky130_conv.spice"
simulator lang=spectre

parameters Vcm=1.5 Vdiff=0.02 frequency=100K

xinst0 ( o0 o1 o2 o3 o4 o5 o6 o7 o8 o9 o10 o11 o12 o13 o14 o15 o16 o17 o18 o19 o20 o21 o22 o23 o24 o25 o26 o27 o28 o29 o30 o31 ldotop_clk comp_in ldotop_rst 0 VDD ) DigitalLDOLogic 
*xinst1  ( ldotop_vout 0 ) capacitor c=10pF
*xinst2 ldotop_vout v1 0 0 sky130_fd_pr__nfet_01v8 l=0.15u nf=1 w=0.6u
*xinst7 ldotop_vout vsqu 0 0 sky130_fd_pr__nfet_01v8 l=0.15u nf=1 w=0.6u
xinst8 ( comp_in 0 ) vsource type=pwl wave=[
+0u 0 9.99995u 0
+10u 1.8 19.9995u 1.8
+20u 0   39.9995u 0
+40u 1.8  49.9995u 1.8
+50u 0 59.9995u 0
+60u 1.8 69.9995u 1.8
+70u 0 71u 0
+]
*xinst2 ( vinp 0 ) vsource dc=Vcm type=sine ampl=Vdiff freq=frequency
*xinst4 ( ldotop_vref 0 ) vsource dc=Vcm type=sine ampl=-Vdiff freq=frequency
xinst3 ( ldotop_vdd 0 ) vsource dc=1.8 type=dc
*xinst9 ( v1 0 ) vsource dc=1.5 type=dc
*xinst4 ( ldotop_vref 0 ) vsource dc=1.5 type=dc
*xinst5 ( ldotop_clk 0 ) vsource delay=0 fall=100p period=5u rise=100p type=pulse val0=1.8 val1=0 width=2.5u
*xinst5 (ldotop_clk 0) vsource type=pulse val0=0 val1=1.8 period=2.5u rise=100p fall=100p width=1.25u delay=0  
xinst5 (ldotop_clk 0) vsource type=pulse val0=0 val1=1.8 period=1u rise=100p fall=100p width=500n delay=0
xinst6 ( ldotop_rst 0) vsource type=pwl wave=[
+ 0u 1.8 9.995u 1.8
+ 10u 0 100u 0
+]

settemp1 options temp=25.0
*save ldotop_vref
save ldotop_clk
save ldotop_rst
save o0
save o1
save o2
save o3
save o4
save o5
save o6
save o7
save o8
save o9
save o10
save o11
save o12
save o13
save o14
save o15
save o16
save o17
save o18
save o19
save o20
save o21
save o22
save o23
save o24
save o25
save o26
save o27
save o28
save o29
save o30
save o31
save comp_in
save ldotop_vdd
*save I(xinst2)
saveopts options save=allpub


*precharge_Vcm sweep param=Vcm start=1.3 stop=1.5 step=0.01 {
*        analysis_0 tran stop=6u errpreset=conservative
*}


analysis_0 tran stop=72u errpreset=conservative

simulator lang=spice

*.probe i(xinst2)
*.probe i(xinst7)
*.meas tran maxvn max v(output_n)
*.meas tran minvn min v(output_n)
*.meas tran t1 param ='(maxvn-minvn) *0.5'
*.meas tran clock_to_qn trig v(clk) val='1.8*0.5' rise=1 targ v(output_n) val=t1  fall=1
*.meas tran maxvp max v(output_p)
*.meas tran minvp min v(output_p)
*.meas tran t2 param ='(maxvp-minvp) *0.5'
*.meas tran clock_to_qp trig v(clk) val='1.8*0.5' rise=1 targ v(output_p) val=t1  fall=1
